US04226867
A mixture of 4-amino-6-chloro-1,3-benzenedisulfonamide (5.72 g., 0.02 mole) and 4-dimethylaminocyclohexanone (3.38 g., 0.022 mole) in 2 N ethanolic HCl (100 ml) is refluxed for one hour and cooled. 4'-Dimethylamino-6-chlorospiro[2H-1,2,4-benzothiadiazine-3(4H),1'-cyclohexane]-7-sulfonamide-1,1-dioxide hydrochloride is filtered, dissolved in warm water (200 ml.) and treated with aqueous ammonia (1.0 ml.) to give 4'-dimethylamino-6-chlorospiro[2H-1,2,4-benzothiadiazine-3(4H),1'-cyclohexane]-7-sulfonamide-1,1-dioxide which melts at 255° C. after recrystallization from dimethylsulfoxide--H2O.

reactant | 4-amino-6-chloro-1,3-benzenedisulfonamide | 0.02 mole, 5.72 g | NC1=C(C=C(C(=C1)Cl)S(=O)(=O)N)S(=O)(=O)N | C6H8ClN3O4S2
reactant | 4-dimethylaminocyclohexanone | 0.022 mole, 3.38 g | CN(C1CCC(CC1)=O)C | C8H15NO
solvent | HCl | 2 N, 100 ml | Cl | ClH
product | 4'-dimethylamino-6-chlorospiro[2H-1,2,4-benzothiadiazine-3(4H),1'-cyclohexane]-7-sulfonamide-1,1-dioxide | CN(C1CCC2(CC1)NS(C1=C(N2)C=C(C(=C1)S(=O)(=O)N)Cl)(=O)=O)C | C14H21ClN4O4S2
